US07241923B2
(i) Ethyl (2S)-2-ethoxy-3-(4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)propanoate
Ethyl (2S)-2-ethoxy-3-(4-hydroxyphenyl)propanoate (11.44 g, 48.01 mmol) was dissolved in 240 ml dichloromethane and cooled to −40° C. TEA (7.29 g, 72.04 mmol) was added and the temperature was decreased to −60° C. Trifluoromethane sulfonic anhydride (8.88 ml, 52.81 mmol) was dissolved in 150 ml cold dichloromethane and slowly added to the reaction mixture during 20 minutes. The reaction mixture was stirred at −60° C. for 1.5 hours. The product was washed with cold 1 M potassium hydrogen sulphate solution, the water phase was washed with dichloromethane, the combined organic phases were washed with saturated sodium hydrogen carbonate solution and brine, dried (sodium sulphate), filtered and solvent was evaporated in vacuo to give 17.94 g of a brown oil, which was purified by chromatography on silica gel using heptane:ethyl acetate 2:1 as eluent to give 17.33 g (yield 97.5%) of pure material.

reactant | Ethyl (2S)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | 48.01 mmol, 11.44 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | Trifluoromethane sulfonic anhydride | 52.81 mmol, 8.88 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Ethyl (2S)-2-ethoxy-3-(4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)propanoate | 17.94 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C14H17F3O6S
